US07091222B2
[2-Methyl-4-(2-methyl-pyridin-4-ylethynyl)-imidazol-1-yl]-acetonitrile
The title compound, MS: m/e=237.2 (M+H+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and bromoacetonitrile.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [2-Methyl-4-(2-methyl-pyridin-4-ylethynyl)-imidazol-1-yl]-acetonitrile | CC=1N(C=C(N1)C#CC1=CC(=NC=C1)C)CC#N | C14H12N4
